US05521220
A. α,α-Diphenyl-α-aminoacetonitrile
A solution of 4.05 ml (0.03 mol) of trimethylsilylcyanide in 20 ml of dry benzene was treated with 0.44 gm (0.001 mol) zinc iodide and 4.63 ml (0.028 mol) of benzophenoneimine. The reaction mixture was stirred at room temperature for 10 min., whereupon a white precipitate formed. The reaction mixture was quenched with wet ether and stirred for 2 hours. The liquid phase was washed with saturated brine solution and dried over sodium sulfate and evaporated in vacuo. The residue was recrystallized from ether-hexane to afford 2.4 gm (38%). 1H NMR (CDCl3, 300 MHz) δ 7.7-7.6 (m, 4H), 7.4-7.28 (m, 6H); 13C NMR (CDCl3, 75.5 MHz ) δ 141.2, 128.9, 128.6, 125.8, 123.4, 60.8.

reactant | trimethylsilylcyanide | 0.03 mol, 4.05 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | benzophenoneimine | 0.028 mol, 4.63 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc iodide | 0.001 mol, 0.44 gm | [I-].[Zn+2].[I-]
product | α,α-Diphenyl-α-aminoacetonitrile | C1(=CC=CC=C1)C(C#N)(N)C1=CC=CC=C1 | C14H12N2
